US04088652
A solution of 3-acetyl-1-(p-nitrophenyl)-3-azabicyclo[3.1.0]hexane in tetrahydrofuran is hydrogenated at atmospheric pressure and ambient temperature using a 5% palladium on charcoal catalyst. Filtration and evaporation of the filtrate under reduced pressure gives 3-acetyl-1-(p-aminophenyl)-3-azabicyclo[3.1.0]hexane.

reactant | 3-acetyl-1-(p-nitrophenyl)-3-azabicyclo[3.1.0]hexane | C(C)(=O)N1CC2(CC2C1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H14N2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | [Pd] | Pd
product | 3-acetyl-1-(p-aminophenyl)-3-azabicyclo[3.1.0]hexane | C(C)(=O)N1CC2(CC2C1)C1=CC=C(C=C1)N | C13H16N2O
